data/mechanism_extracts/ACSSustChemEng/10.1021_acssuschemeng.1c04473.json
{"doi": "10.1021_acssuschemeng.1c04473", "journal": "ACSSustChemEng", "is_review": false, "rxn_class_summary": "Iodide-mediated electrocatalytic aziridination of simple aromatic alkenes (styrenes) with NH3 to give unprotected N-H aziridines and H2", "mechanism_family": ["mediator_anodic", "electrocatalysis_outer_sphere"], "electrochemical_role": "Anodic oxidation of I- to I2 (I+ equivalent), which reacts with NH3 to form the electrophilic nitrogen transfer reagent NH2I; H+/NH4+ is reduced at the Ni cathode to H2", "key_intermediates": [{"name": "iodine (I2) / triiodide", "smiles": "II", "role": "transient"}, {"name": "charge-transfer complex I-...[+INH3]", "smiles": null, "role": "transient"}, {"name": "iodoamine NH2I (active aminating species)", "smiles": "NI", "role": "reactive"}, {"name": "diiodoamine NHI2 (minor)", "smiles": "IN I", "role": "transient"}, {"name": "vicinal iodoamine (2-iodo-1-amino-1-phenylethane)", "smiles": "NC(c1ccccc1)CI", "role": "reactive"}, {"name": "2-phenylaziridine (product)", "smiles": "C1(c2ccccc2)CN1", "role": "reactive"}, {"name": "ammonium NH4+", "smiles": "[NH4+]", "role": "transient"}], "electron_flow": "At the carbon anode 2 I- are oxidized to I2, which reacts with NH3 to generate NH2I (plus NH4+ and I-); NH2I aminohalogenates styrene to a vicinal iodoamine that undergoes base-assisted anti cyclization to the N-H aziridine, releasing I-, while NH4+/H2O is reduced at the Ni cathode to H2, closing the EC' cycle.", "rate_determining_step": "Anodic oxidation of I- to I+/I2 coupled to its chemical reaction with NH3 (EC' step generating NH2I); supported by quasilinear CV response only when both iodide and ammonia are present", "probe_reagents": [{"name": "no iodide source (control)", "smiles": null, "purpose": "other", "observation": "0% aziridine — iodide mediator is essential"}, {"name": "no current (control)", "smiles": null, "purpose": "other", "observation": "0% aziridine — electrolysis required"}, {"name": "I2 (1 equiv) without current", "smiles": "II", "purpose": "intermediate_trap", "observation": "12% aziridine, indicating I2 is (one of) the active species generated by anodic oxidation"}, {"name": "reaction in the dark", "smiles": null, "purpose": "other", "observation": "84% yield — light/photoinduction not significant"}, {"name": "Na2S2O3 quench", "smiles": "[Na+].[Na+].[O-]S(=O)(=O)SS(=O)(=O)[O-]", "purpose": "intermediate_trap", "observation": "Dark red/brown I2 color disappears, regenerating I-, confirming presence of I2/I+ species"}, {"name": "15NH4OH labeling", "smiles": null, "purpose": "isotope_label", "observation": "1H/15N HMBC shows aziridine 15N at ~16 ppm; new 15N peaks at 103 and 256 ppm assigned to NH2I and NHI2"}, {"name": "UV-Vis spectrophotometry on reaction without styrene", "smiles": null, "purpose": "other", "observation": "Spectrum matches triiodide, confirming I2 generation at the anode"}], "evidence_types_used": ["cyclic_voltammetry", "UV_vis", "isotope_label", "intermediate_trap_other", "stoichiometric_intermediate", "on/off_light_or_current"], "evidence_strength": "strong", "notes": "An alternative cathodic half-reaction is direct reduction of water to H2 + OH- (equivalent to NH4+ reduction). The authors note steric and electronic substrate effects: α-substituted styrenes give very high yields (stabilization of partial positive charge at α-carbon during NH2I attack), while β-stilbenes give only traces due to sterics; this supports an electrophilic aminohalogenation pathway via NH2I rather than a free aminyl radical."}
